US09315521B2
To a solution of {2-chloro-5-[(diethylamino)methyl]phenyl}methanol (3.0 g, 13.2 mmol) in anhydrous dichloromethane (80 mL) was added dropwise phosphorus tribromide (2.5 mL, 26.4 mmol). The mixture was stirred at room temperature overnight. The solvent was evaporated. The residue was dried in vacuo, affording {[3-(bromomethyl)-4-chlorophenyl]methyl}diethylamine. The product was used without further purification.

reactant | {2-chloro-5-[(diethylamino)methyl]phenyl}methanol | 13.2 mmol, 3.0 g | ClC1=C(C=C(C=C1)CN(CC)CC)CO | C12H18ClNO
reactant | phosphorus tribromide | 26.4 mmol, 2.5 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | {[3-(bromomethyl)-4-chlorophenyl]methyl}diethylamine | BrCC=1C=C(C=CC1Cl)CN(CC)CC | C12H17BrClN
